US05013863
To 8.2 g (27.1 mMol) of ethyl 1,1-diethoxyethyl(1,1-difluorobutyl)phosphinate in 81 ml of dry tetrahydrofuran are added, with stirring at room temperature, 9 ml of ethanol and 5.1 ml (40.7 mMol) of trimethylchlorosilane. After 5 hours of stirring the reaction mixture is evaporated and the remaining oil is chromatographed on a silica gel column eluting with ether. The product-containing fractions are collected and the solvent is evaporated leaving 1,1-difluorobutylphosphonous acid ethyl ester as colorless oil, Rf=0.4 (CH2Cl2 /CH3COOH, 95+5).

reactant | ethyl 1,1-diethoxyethyl(1,1-difluorobutyl)phosphinate | 27.1 mMol, 8.2 g | C(C)OC(C)(OCC)P(OCC)(=O)C(CCC)(F)F | C12H25F2O4P
reactant | ethanol | 9 ml | C(C)O | C2H6O
reactant | trimethylchlorosilane | 40.7 mMol, 5.1 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 81 ml | O1CCCC1 | C4H8O
product | 1,1-difluorobutylphosphonous acid ethyl ester | C(C)OP(O)C(CCC)(F)F | C6H13F2O2P
